US20010056094A1
5-Acetyl-2-oxindole
2-Oxindole (3 g) was suspended in 1,2-dichlorcethane and 3.2 mL acetyl chloride were slowly added. The resulting suspension was heated to 50° C. for 5 hours, cooled, and poured into water. The resulting precipitate was collected by vacuum filtration, washed copiously with water and dried under vacuum to give 2.9 g (73% yield) of the title compound as a brown solid.

reactant | 2-Oxindole | 3 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | acetyl chloride | 3.2 mL | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 5-Acetyl-2-oxindole | 2.9 g, 73% yield | C(C)(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO2
